* NGSPICE file created from stdp_4x2.ext - technology: gf180mcuD

* Black-box entry subcircuit for stdp abstract view
.subckt stdp avdd avss nvpost nvpre vpost vpre vb_idep vb_itd vb_itp vb_pot vw Iout
.ends

* Black-box entry subcircuit for Current_limit abstract view
.subckt Current_limit i_SUM ifwd avdd avss
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__antenna abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__antenna I VDD VNW VPW VSS
.ends

.subckt stdp_4x2 B avdd avss ifwd1 ifwd2 nvpost1 nvpost2 nvpre1 nvpre2 nvpre3 A vpost1
+ vpost2 vpre1 vpre2 vpre3 vpre4 vw11 vw42
Xx1 avdd avss nvpost1 nvpre1 x1/vpost vpre1 x1/vb_idep x3/vb_pot x1/vb_itp x1/vb_pot
+ vw11 nvpost1 stdp
Xx2 avdd avss nvpost1 x2/nvpre vpost1 x6/vpre x1/vb_itp x3/vb_pot x2/vb_itp x3/vb_pot
+ x2/vw nvpost1 stdp
Xx3 avdd avss nvpost1 nvpre3 vpost1 vpre3 x8/vb_itp x3/vb_pot x3/vb_itp x3/vb_pot
+ x3/vw x3/Iout stdp
Xx4 avdd avss nvpost1 x4/nvpre x4/vpost x4/vpre x8/vb_itp A x4/vb_itp x4/vb_pot x4/vw
+ x4/Iout stdp
Xx5 x5/avdd avss nvpost2 nvpre1 vpost2 vpre1 B x5/vb_itd B A x5/vw nvpost2 stdp
Xx6 x6/avdd avss nvpost2 x6/nvpre vpost2 x6/vpre B x6/vb_itd x6/nvpre A x6/vw nvpost2
+ stdp
Xx7 x7/avdd avss nvpost2 nvpre3 vpost2 x7/vpre B A B A x7/vw x7/Iout stdp
Xx8 x8/avdd avss nvpost2 x8/nvpre x8/vpost x8/vpre x8/vb_itp A x8/vb_itp x8/vb_pot
+ vw42 x8/Iout stdp
Xx9 x4/Iout ifwd1 avdd avss Current_limit
Xx10 x8/Iout ifwd2 avdd avss Current_limit
XANTENNA_1 nvpre2 ANTENNA_1/VDD ANTENNA_1/VNW avss ANTENNA_1/VSS gf180mcu_fd_sc_mcu7t5v0__antenna
XANTENNA_2 x6/nvpre ANTENNA_2/VDD ANTENNA_2/VNW avss ANTENNA_2/VSS gf180mcu_fd_sc_mcu7t5v0__antenna
.ends

