* NGSPICE file created from stdp_4x2.ext - technology: gf180mcuD

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__antenna abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__antenna I VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for stdp abstract view
.subckt stdp avdd avss nvpost nvpre vpost vpre vb_idep vb_itd vb_itp vb_pot vw Iout
.ends

* Black-box entry subcircuit for Current_limit abstract view
.subckt Current_limit i_SUM ifwd avdd avss
.ends

.subckt stdp_4x2 A B avdd avss ifwd1 ifwd2 nvpost1 nvpost2 nvpre1 nvpre2 nvpre3 nvpre4
+ vpost1 vpost2 vpre1 vpre2 vpre3 vpre4 vw11 vw42
XANTENNA_5 nvpre2 ANTENNA_5/VDD ANTENNA_5/VNW avss ANTENNA_5/VSS gf180mcu_fd_sc_mcu7t5v0__antenna
XANTENNA_6 nvpre2 ANTENNA_6/VDD ANTENNA_6/VNW avss ANTENNA_6/VSS gf180mcu_fd_sc_mcu7t5v0__antenna
Xx1 avdd avss nvpost1 nvpre1 vpost1 vpre1 B A B A vw11 x4/Iout stdp
Xx2 avdd avss nvpost1 nvpre2 vpost1 vpre2 B A B A x2/vw x4/Iout stdp
Xx3 avdd avss nvpost1 nvpre3 vpost1 vpre3 B A B A x3/vw x4/Iout stdp
Xx4 avdd avss nvpost1 nvpre4 vpost1 vpre4 B A B A x4/vw x4/Iout stdp
Xx5 x5/avdd avss nvpost2 nvpre1 vpost2 vpre1 B A B A x5/vw x8/Iout stdp
Xx6 x6/avdd avss nvpost2 nvpre2 vpost2 vpre2 B A B A x6/vw x8/Iout stdp
Xx7 x7/avdd avss nvpost2 nvpre3 vpost2 vpre3 B A B A x7/vw x8/Iout stdp
Xx8 x8/avdd avss nvpost2 nvpre4 vpost2 vpre4 B A B A vw42 x8/Iout stdp
Xx9 x4/Iout ifwd1 avdd avss Current_limit
Xx10 x8/Iout ifwd2 avdd avss Current_limit
XANTENNA_1 nvpre2 ANTENNA_5/VDD ANTENNA_5/VNW avss ANTENNA_5/VSS gf180mcu_fd_sc_mcu7t5v0__antenna
XANTENNA_2 nvpre2 ANTENNA_6/VDD ANTENNA_6/VNW avss ANTENNA_6/VSS gf180mcu_fd_sc_mcu7t5v0__antenna
XANTENNA_3 nvpre2 ANTENNA_5/VDD ANTENNA_5/VNW avss ANTENNA_5/VSS gf180mcu_fd_sc_mcu7t5v0__antenna
XANTENNA_4 nvpre2 ANTENNA_6/VDD ANTENNA_6/VNW avss ANTENNA_6/VSS gf180mcu_fd_sc_mcu7t5v0__antenna
.ends

